US08454978B2
To a mixture of 2.12 g of 3-(3-trifluoromethylphenyl)propanal synthesized in the Step 2, 2.0 ml of (R)-1-(1-naphthyl)ethylamine, 3.42 g of sodium triacetoxyborohydride, and 150 ml of dry dichloromethane was added 0.750 ml of glacial acetic acid, and the mixture was stirred at room temperature for 5 hours. After 100 ml of water had been added and the mixture had been stirred for 3 hours, 100 ml of 2M sodium hydroxide aqueous solution was added, and the resultant was separated into an aqueous layer and an organic layer. The aqueous layer was extracted with dichloromethane, and the extract was combined with the separated organic layer, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified with column chromatography (silica gel/hexane:ethyl acetate of 4:1 to 1:1) and then concentrated to afford 3.41 g of (R)—N-(3-(3-trifluoromethylphenyl)propyl)-1-(1-naphthyl)ethylamine as an oil. The compound was dissolved in 10 ml of dichloromethane, 5 ml of 4M hydrochloric acid/dioxane and 20 ml of toluene were added, and the mixture was concentrated under reduced pressure to pureness. The residue was recrystallized from 40 ml of ethanol and 200 ml of heptane to afford 1.71 g of the captioned compound.

reactant | 3-(3-trifluoromethylphenyl)propanal | 2.12 g | FC(C=1C=C(C=CC1)CCC=O)(F)F | C10H9F3O
reactant | (R)-1-(1-naphthyl)ethylamine | 2.0 ml | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N | C12H13N
reactant | sodium triacetoxyborohydride | 3.42 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2M, 100 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 0.750 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (R)—N-(3-(3-trifluoromethylphenyl)propyl)-1-(1-naphthyl)ethylamine | 3.41 g | FC(C=1C=C(C=CC1)CCCN[C@H](C)C1=CC=CC2=CC=CC=C12)(F)F | C22H22F3N
